US04255442
Stir sodium hydride (13 g) in a mixture of dimethylsulfoxide (100 ml) and benzene (100 ml), and heat at 65°-75° for 2 hours under nitrogen. To this mixture add ethyl 6-bromo-5-chloro-3-phenylindole-2-carboxylate in dimethylsulfoxide (50 ml) and benzene (30 ml) at 15°-20° and stir the mixture at room temperature for one hour. Cool the resulting mixture to 15° C. add 50 ml of water (very slowly) and then add an additional 550 ml of water. Add 25 ml of acetic acid, stir and then filter. Wash the resulting solid with water and then hexane. Crystallize the desired product from methanol-methylene chloride to obtain 6-bromo-5-chloro-2[(methylsulfinyl)acetyl]-3-phenylindole, m.p. 169°-170°.

reactant | sodium hydride | 13 g | [H-].[Na+]
reactant | ethyl 6-bromo-5-chloro-3-phenylindole-2-carboxylate | BrC1=C(C=C2C(=C(NC2=C1)C(=O)OCC)C1=CC=CC=C1)Cl | C17H13BrClNO2
reactant | water | 50 ml | O | H2O
reactant | water | 550 ml | O | H2O
reactant | acetic acid | 25 ml | C(C)(=O)O | C2H4O2
reactant | dimethylsulfoxide | 100 ml | CS(=O)C | C2H6OS
reactant | dimethylsulfoxide | 50 ml | CS(=O)C | C2H6OS
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 30 ml | C1=CC=CC=C1 | C6H6
product | 6-bromo-5-chloro-2[(methylsulfinyl)acetyl]-3-phenylindole | BrC1=C(C=C2C(=C(NC2=C1)C(CS(=O)C)=O)C1=CC=CC=C1)Cl | C17H13BrClNO2S
